US07105544B2
2-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE
Example 8 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.53 (s, 1H), 7.32–7.24 (m, 7H), 6.91 (d, 1H, J=7.2 Hz), 6.67 (m, 1H), 3.31 (q, 2H, J=5.5 Hz), 2.92–2.85 (m, 2H), 2.53 (septet, 1H, J=6.7 Hz), 2.43 (tt, 1H, J=11.6, 3.0 Hz), 2.33 (t, 2H, J=6.7 Hz), 1.91 (dt, 2H, J=11.7, 1.8 Hz), 1.78–1.72 (m, 2H), 1.65–1.59 (m, 2H), 1.56 (s, 6H), 1.52–1.45 (m, 2H), 1.25 (d, 6H, J=6.7 Hz); ESMS m/e: 484.3 (M+H)+; Anal. Calc. for (HCl salt) C28H38ClN3O2.HCl.0.30 CHCl3: C, 61.10; H, 7.12; N, 7.55. Found: C, 60.90; H, 7.20; N, 7.64.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)(C)C | C28H38ClN3O2
